US04163018
Water (19 L) was added to stearyl phosphate (molar ratio of diester/monoester=1/2.7; acid value, 231.7 mg KOH/g) (1 kg) while heating at 70° C., whereby the stearyl phosphate was dispersed uniformly. An aqueous solution of sodium hydroxide (500 g/L) (331 ml) was dropwise added to the mixture while keeping the said temperature. When the addition was finished, the mixture showed a pH of about 11.5. An aqueous solution of magnesium sulfate (300 g/L) (846 ml) was gradually added thereto at a temperature of 60° to 70° C. After the addition was finished, the mixture was stirred at 60° C. for 90 minutes. On confirming that the remaining magnesium ion in water became constant, the reaction was finished. The product was collected, washed, dried at 75° C. for 72 hours and then pulverized by the aid of a hammer mill to give magnesium stearyl phosphate (1014.1 g). Yield, 97%. M.P., 210° to 215° C. Apparent specific volume, 5.0 ml/g. Elementary analysis: calcd., P=7.1%, Mg=4.8%; found, P=7.0%, Mg=4.6%.

reactant | stearyl phosphate | 231.7 mg | P(=O)(OCCCCCCCCCCCCCCCCCC)([O-])[O-]
reactant | sodium hydroxide | 331 ml | [OH-].[Na+]
reactant | magnesium sulfate | 846 ml | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | water | O | H2O
solvent | Water | 19 L | O | H2O
product | magnesium stearyl phosphate | 1014.1 g | P(=O)(OCCCCCCCCCCCCCCCCCC)([O-])[O-].[Mg+2] | InChI=1S/C18H39O4P.Mg/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-22-23(19,20)21;/h2-18H2,1H3,(H2,19,20,21);/q;+2/p-2
